US05646173
1.1 ml of methanesulfonyl chloride were added dropwise while stirring to a solution, cooled to 0°, of 1.9 g of (R)-1-(7-tert-butyl-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol and 3.9 ml of triethylamine in 55 ml of dichloromethane and the mixture was stirred at this temperature for an additional 1.5 hours. The reaction mixture was subsequently diluted with 150 ml of dichloromethane, washed twice with 70 ml of saturated sodium hydrogen carbonate solution each time and the combined aqueous phases were extracted once with 70 ml of dichloromethane. The combined organic phases were washed with 100 ml of saturated sodium chloride solution, dried over magnesium sulfate and evaporated in a vacuum. The brown oil obtained was dissolved in 50 ml of anhydrous dimethylformamide, treated with 0.83 g of sodium azide and the reaction mixture was heated to 60° for 16 hours while stirring. After cooling the solution was poured into 120 ml of water and extracted twice with 120 ml of ethyl acetate each time. The combined organic phases were washed once with 100 ml of water and once with 100 ml of saturated sodium chloride solution, dried over magnesium sulfate and the solution was concentrated in a vacuum. The brown oil obtained was purified by column chromatography on silica gel (toluene). 0.82 g (44%) of (S)-1-(2-azido-propyl)-7-tert-butyl-1,4-dihydro-indeno[1,2-b]pyrrole was obtained as a light brown oil.

reactant | methanesulfonyl chloride | 1.1 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (R)-1-(7-tert-butyl-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol | 1.9 g | C(C)(C)(C)C1=CC=C2CC3=C(N(C=C3)C[C@@H](C)O)C2=C1 | C18H23NO
reactant | triethylamine | 3.9 ml | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 0.83 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 55 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 120 ml | O | H2O
product | (S)-1-(2-azido-propyl)-7-tert-butyl-1,4-dihydro-indeno[1,2-b]pyrrole | 0.82 g, 44% | N(=[N+]=[N-])[C@H](CN1C2=C(C=C1)CC1=CC=C(C=C12)C(C)(C)C)C | C18H22N4
